US06054412
Step 2: α-Bromo-4-chlorobenzaldehyde methylhydrazone
9.5 g (0.06 mol) of bromine were added dropwise at (-5) to (-7)° C. to a solution of 10 g (0.06 mol) of 4-chlorobenzaldehyde (N-methyl)hydrazone in 50 ml of acetic acid and 20 ml of acetonitrile. After the mixture had been stirred for 3 hours, the product which had precipitated was separated off and washed with a small amount of pentane. Yield: 61%.

reactant | bromine | 0.06 mol, 9.5 g | BrBr | Br2
reactant | 4-chlorobenzaldehyde (N-methyl)hydrazone | 0.06 mol, 10 g | CNN=CC1=CC=C(C=C1)Cl | C8H9ClN2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | α-Bromo-4-chlorobenzaldehyde methylhydrazone | Yield: 61% | CNN=C(C1=CC=C(C=C1)Cl)Br | C8H8BrClN2
